US08440666B2
2-[5-Bromo-4-(1,1,3,3-tetramethylbutylamino)-6-oxopyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide
2-(4,5-Dibromo-6-oxopyridazin-1(6H)-yl)-N-(pyridin-4-ylmethyl)acetamide (50 mg, 124 μmol) in dioxane-water (1:1, 2 mL) was stirred with triethylamine (52 μL, 372 μmol) and 2,5,5-trimethylhexan-2-amine (16 mg, 112 μmol) at 90° C. for 26 hours. After completion of the reaction, the solvent was removed by vacuum distillation, and the residue was mixed with saturated aqueous sodium chloride and extracted with chloroform three times. The combined organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed by vacuum distillation. The resulting residue was purified by silica gel chromatography (chloroform/methanol=10/1) to give the desired product (13 mg, 25% yield).

reactant | 2-(4,5-Dibromo-6-oxopyridazin-1(6H)-yl)-N-(pyridin-4-ylmethyl)acetamide | 124 μmol, 50 mg | BrC=1C=NN(C(C1Br)=O)CC(=O)NCC1=CC=NC=C1 | C12H10Br2N4O2
reactant | triethylamine | 372 μmol, 52 μL | C(C)N(CC)CC | C6H15N
reactant | 2,5,5-trimethylhexan-2-amine | 112 μmol, 16 mg | CC(C)(CCC(C)(C)C)N | C9H21N
reactant | dioxane water | 2 mL | O1CCOCC1.O
product | 2-[5-Bromo-4-(1,1,3,3-tetramethylbutylamino)-6-oxopyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide | 13 mg, 25% yield | BrC1=C(C=NN(C1=O)CC(=O)NCC1=CC=NC=C1)NC(CC(C)(C)C)(C)C | C20H28BrN5O2
